US06350749B1
A solution of 5-(2-thiazolyl)-cyclohexane-1,3-dione (0.93 g) and ammonium acetate (1.1 g) in ethanol (20 ml) was refluxed for 13 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added sodium hydrogen carbonate solution. The aqueous layer was washed with ethyl acetate and concentrated, and to the residue was ethanol-ethyl acetate (1:1). Insoluble materials were filtered and concentrated under reduced pressure. To the residue was added ethanol, and insoluble materials were filtered and concentrated under reduced pressure to give solid, which was dissolved in ethanol (10 ml) and toluene (30 ml). To the solution were added 3-oxobutylaldehydedimethylacetal (1.6 g) and powdery 85% potassium hydroxide (0.26 g), and the mixture was refluxed. To the mixture was added powdery 85% potassium hydroxide (0.054 g), 30 minutes later; were added powdery 85% potassium hydroxide (0.054 g) and 3-oxobutylaldehydedimethylacetal(0.063 g), 1 hour later; and powdery 85% potassium hydroxide (0.054 g), 1.5 hours later; and then the mixture was refluxed for 1 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. The mixture was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give crystals of 7-(2-thiazolyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.76 g).

reactant | 5-(2-thiazolyl)-cyclohexane-1,3-dione | 0.93 g | S1C(=NC=C1)C1CC(CC(C1)=O)=O | C9H9NO2S
reactant | ammonium acetate | 1.1 g | C(C)(=O)[O-].[NH4+]
reactant | potassium hydroxide | 0.26 g | [OH-].[K+]
reactant | potassium hydroxide | 0.054 g | [OH-].[K+]
reactant | potassium hydroxide | 0.054 g | [OH-].[K+]
reactant | potassium hydroxide | 0.054 g | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(2-thiazolyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.76 g | S1C(=NC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C13H12N2OS
